US06248766B1
To a mixture of ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate (1.20 g, 3.67 mmol), N-(3,3-diphenylpropyl)thiourea (1.10 g, 4.04 mmol), and acetonitrile (30 mL) was added triethylamine (0.56 mL, 4.04 mmol), and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with 1N-hydrochloric acid, saturated aqueous sodium chloride solution, and water, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-ethyl acetate=5:1) to provide 700 mg of ethyl[[2-(3,3-diphenylpropyl)amino-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]acetate. To a solution of this compound in acetic acid (10 mL) was added concentrated hydrochloric acid (5 mL) and the mixture was refluxed for 1 hour. After cooling, the reaction mixture was diluted with water and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with water, dried over MgSO4, and filtered and the filtrate was concentrated under reduced pressure. The residue was crystallized from hexane-ethyl acetate to provide 500 mg of the title compound. Yield 17%.

reactant | ethyl[(6-bromo-5,6,7,8-tetrahydro-5-oxo-1-naphthalenyl)oxy]acetate | 3.67 mmol, 1.20 g | C(C)OC(COC1=CC=CC=2C(C(CCC12)Br)=O)=O | C14H15BrO4
reactant | N-(3,3-diphenylpropyl)thiourea | 4.04 mmol, 1.10 g | C1(=CC=CC=C1)C(CCNC(=S)N)C1=CC=CC=C1 | C16H18N2S
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
reactant | triethylamine | 4.04 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | ethyl[[2-(3,3-diphenylpropyl)amino-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]acetate | 700 mg | C(C)OC(COC1=C2CCC3=C(N=C(S3)NCCC(C3=CC=CC=C3)C3=CC=CC=C3)C2=CC=C1)=O | C30H30N2O3S
